US07517875B2
After dissolving 4-tert-butoxycarbonylamino-3-methylaminobenzoic acid methyl ester (794.3 mg, 2.83 mmol) in methanol (7.0 ml), a 4N hydrogen chloride-1,4-dioxane solution (3.54 ml, 14.3 mmol) was added in an ice bath, and the mixture was stirred at room temperature for 30 minutes. An equivalent amount of the 4N hydrogen chloride-1,4-dioxane solution was further added, and the mixture was stirred at 40° C. for 30 minutes. The reaction mixture was poured into ice-cooled saturated aqueous sodium bicarbonate, and was extracted with ethyl acetate (30 ml×3). The obtained organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1→3/2→1/1) to obtain 4-amino-3-methylaminobenzoic acid methyl ester. The compound was identified by LC-MS.

reactant | 4-tert-butoxycarbonylamino-3-methylaminobenzoic acid methyl ester | 2.83 mmol, 794.3 mg | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)NC)=O | C14H20N2O4
reactant | hydrogen chloride-1,4-dioxane | 14.3 mmol, 4N, 3.54 ml | O1CCOCC1.Cl
reactant | hydrogen chloride-1,4-dioxane | 4N | O1CCOCC1.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 7.0 ml | CO | CH4O
product | 4-amino-3-methylaminobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)N)NC)=O | C9H12N2O2
